US07232821B2
d) 3-{2-[5-methylsulfonyl-2-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid benzyl ester
A stirred mixture of 3-{2-[5-methylsulfonyl-2-(hydroxy)- -phenyl]-cyclopent-1-enyl}-benzoic acid (65 mg, 0.2 mmol), potassium carbonate (138 mg, 1 mmol) and benzyl bromide (75 mg, 0.44 mmol) in acetone (4 ml) was refluxed for 16 hours then cooled and diluted with diethyl ether/water. The organic phase was dried (MgSO4), evaporated to dryness and purified using Biotage with ethyl acetate/iso-hexane (1:19) to yield the title compound as a colourless gum. (85 mg, 84%).

reactant | 3-{2-[5-methylsulfonyl-2-(hydroxy)- -phenyl]-cyclopent-1-enyl}-benzoic acid | 0.2 mmol, 65 mg | CS(=O)(=O)C=1C=CC(=C(C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1)O | C19H18O5S
reactant | potassium carbonate | 1 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.44 mmol, 75 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 4 ml | CC(=O)C | C3H6O
solvent | diethyl ether water | C(C)OCC.O
product | 3-{2-[5-methylsulfonyl-2-(benzyloxy)-phenyl]-cyclopent-1-enyl}-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)S(=O)(=O)C)OCC1=CC=CC=C1)=O | C33H30O5S
